US07595323B2
1-Methylpiperazine (0.58 g, 5.77 mmol) and N-[4-fluoro-3-(4-chloromethylbenzoyl amino)-phenyl]-4-(3-pyridyl)-2-pyrimidine-amine (1 g, 2.31 mmol) were reacted according to the same procedure as Example 1 to give 4-(4-methylpiperazin-1-ylmethyl)-N-[2-fluoro-5-(4-(pyridin-3-yl)pyrimidin-2-yl)aminophenyl]benzamide (1.1 g).

reactant | 1-Methylpiperazine | 5.77 mmol, 0.58 g | CN1CCNCC1 | C5H12N2
reactant | N-[4-fluoro-3-(4-chloromethylbenzoyl amino)-phenyl]-4-(3-pyridyl)-2-pyrimidine-amine | 2.31 mmol, 1 g | FC1=C(C=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1)NC(C1=CC=C(C=C1)CCl)=O | C23H17ClFN5O
product | 4-(4-methylpiperazin-1-ylmethyl)-N-[2-fluoro-5-(4-(pyridin-3-yl)pyrimidin-2-yl)aminophenyl]benzamide | 1.1 g | CN1CCN(CC1)CC1=CC=C(C(=O)NC2=C(C=CC(=C2)NC2=NC=CC(=N2)C=2C=NC=CC2)F)C=C1 | C28H28FN7O
